US07071182B2
1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine
A mixture of 6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole (1.60 g, 6.15 mmol), iron powder (3.40 g, 60.8 mmol), and ammonium chloride (166 mg, 3.13 mmol) in a 4:1 solution of ethanol/H2O was heated to reflux for 3 hours, cooled to room temperature, concentrated under reduced pressure. The residue was stirred in triethylamine/ethyl acetate (1/4, 30 mL) for 15 minutes, filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4), and the filtrate was concentrated under reduced pressure to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.66 (m, 4H), 2.50 (m, 4H), 2.85 (t, 2H, J=6.78), 4.27 (t, 2H, J=6.78), 5.30 (s, 2H), 6.49 (m, 2H), 7.35 (m, 1H), 7.70 (m, 1H); MS (DCI/NH3) m/z 231 [M+H]+.

reactant | 6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 6.15 mmol, 1.60 g | [N+](=O)([O-])C1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C13H16N4O2
reactant | ammonium chloride | 3.13 mmol, 166 mg | [Cl-].[NH4+]
catalyst | iron | 60.8 mmol, 3.40 g | [Fe] | Fe
solvent | ethanol H2O | C(C)O.O
product | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
